*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-0N8
* Inductance = 0.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-26GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402PA-0N8_freq port1 port2 PARAMS: Cpar=0.026pF Ind=0.78nH
X1 port1 port2 Model2A PARAMS:
+ R1=4
+ R2=0.061
+ C= {Cpar}
+ K1=0.00000218
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6804.88329
.ends 0402PA-0N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-0N8
* Inductance = 0.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-26GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402PA-0N8_imp port1 port2 PARAMS: Cpar=0.026pF Ind=0.78nH
X1 port1 port2 Model1D PARAMS:
+ R1=4
+ R2=0.061
+ C= {Cpar}
+ K1=0.00000218
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6804.88329
.ends 0402PA-0N8_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-1N9
* Inductance = 1.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-20GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402PA-1N9_freq port1 port2 PARAMS: Cpar=0.037pF Ind=1.9nH
X1 port1 port2 Model2A PARAMS:
+ R1=4.86
+ R2=0.049
+ C= {Cpar}
+ K1=0.00000551
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9140.84852
.ends 0402PA-1N9_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-1N9
* Inductance = 1.9nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-20GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402PA-1N9_imp port1 port2 PARAMS: Cpar=0.037pF Ind=1.9nH
X1 port1 port2 Model1D PARAMS:
+ R1=4.86
+ R2=0.049
+ C= {Cpar}
+ K1=0.00000551
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9140.84852
.ends 0402PA-1N9_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-3N4
* Inductance = 3.4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402PA-3N4_freq port1 port2 PARAMS: Cpar=0.041pF Ind=3.4nH
X1 port1 port2 Model2A PARAMS:
+ R1=0.75
+ R2=0.33
+ C= {Cpar}
+ K1=0.00000158
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=88840.3643
.ends 0402PA-3N4_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-3N4
* Inductance = 3.4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-14GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402PA-3N4_imp port1 port2 PARAMS: Cpar=0.041pF Ind=3.4nH
X1 port1 port2 Model1D PARAMS:
+ R1=0.75
+ R2=0.33
+ C= {Cpar}
+ K1=0.00000158
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=88840.3643
.ends 0402PA-3N4_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-3N5
* Inductance = 3.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-15GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402PA-3N5_freq port1 port2 PARAMS: Cpar=0.038pF Ind=3.5nH
X1 port1 port2 Model2A PARAMS:
+ R1=1.17
+ R2=0.043
+ C= {Cpar}
+ K1=0.0000099
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=39479.8294
.ends 0402PA-3N5_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-3N5
* Inductance = 3.5nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-15GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402PA-3N5_imp port1 port2 PARAMS: Cpar=0.038pF Ind=3.5nH
X1 port1 port2 Model1D PARAMS:
+ R1=1.17
+ R2=0.043
+ C= {Cpar}
+ K1=0.0000099
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=39479.8294
.ends 0402PA-3N5_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-5N8
* Inductance = 5.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402PA-5N8_freq port1 port2 PARAMS: Cpar=0.07pF Ind=5.8nH
X1 port1 port2 Model2A PARAMS:
+ R1=6.8
+ R2=0.222
+ C= {Cpar}
+ K1=0.000012
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10536.1471
.ends 0402PA-5N8_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-5N8
* Inductance = 5.8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402PA-5N8_imp port1 port2 PARAMS: Cpar=0.07pF Ind=5.8nH
X1 port1 port2 Model1D PARAMS:
+ R1=6.8
+ R2=0.222
+ C= {Cpar}
+ K1=0.000012
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10536.1471
.ends 0402PA-5N8_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-6N2
* Inductance = 6.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402PA-6N2_freq port1 port2 PARAMS: Cpar=0.056pF Ind=6.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=11.3
+ R2=0.157
+ C= {Cpar}
+ K1=0.000015
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8732.34014
.ends 0402PA-6N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-6N2
* Inductance = 6.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-9.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402PA-6N2_imp port1 port2 PARAMS: Cpar=0.056pF Ind=6.2nH
X1 port1 port2 Model1D PARAMS:
+ R1=11.3
+ R2=0.157
+ C= {Cpar}
+ K1=0.000015
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8732.34014
.ends 0402PA-6N2_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-8N2
* Inductance = 8.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 0402PA-8N2_freq port1 port2 PARAMS: Cpar=0.06pF Ind=8.2nH
X1 port1 port2 Model2A PARAMS:
+ R1=7
+ R2=0.313
+ C= {Cpar}
+ K1=0.0000158
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16393.4538
.ends 0402PA-8N2_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 0402PA-8N2
* Inductance = 8.2nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 0402PA-8N2_imp port1 port2 PARAMS: Cpar=0.06pF Ind=8.2nH
X1 port1 port2 Model1D PARAMS:
+ R1=7
+ R2=0.313
+ C= {Cpar}
+ K1=0.0000158
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16393.4538
.ends 0402PA-8N2_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft RF Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model2A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K3=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
L1 N003 Lout = {K3}
.ends Model2A








.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
